US08754114B2
Step 4: N-{3-[7-(1-{3-(cyanomethyl)-1-[(1-methyl-1H-pyrazol-3-yl)sulfonyl]azetidin-3-yl}-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea
1-Methyl-1H-pyrazole-3-sulfonyl chloride (5.5 mg, 0.030 mmol) (Maybridge and Cat. No. CC 48303) was added to a mixture of N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (10.0 mg, 0.0202 mmol) and triethylamine (8.4 μL, 0.060 mmol) in acetonitrile (1.0 mL) and MeOH (0.2 mL). The reaction mixture was stirred at r.t. for 30 min. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=640.2.

reactant | 1-Methyl-1H-pyrazole-3-sulfonyl chloride | 0.030 mmol, 5.5 mg | CN1N=C(C=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.0202 mmol, 10.0 mg | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | triethylamine | 0.060 mmol, 8.4 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | MeOH | 0.2 mL | CO | CH4O
product | N-{3-[7-(1-{3-(cyanomethyl)-1-[(1-methyl-1H-pyrazol-3-yl)sulfonyl]azetidin-3-yl}-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CN(C1)S(=O)(=O)C1=NN(C=C1)C)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C27H24F3N11O3S
